US08895313B2
4-(2-Hydroxyethoxy)-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
A mixture of 4-hydroxy-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide (0.20 g, 0.53 mmol), chloroethanol (0.064 g, 0.80 mmol) and potassium carbonate (0.26 g, 1.86 mmol) was heated at 100° C. in dry DMF (10 ml) for 18 h. On cooling to room temperature, water (30 ml) was added and the reaction mixture was extracted with EtOAc (7×40 ml). The combined organic extracts were washed with brine (80 ml) and dried (Na2SO4). The solvent was removed under reduced pressure to give the title compound (0.17 g, 76%) as a colourless solid.

reactant | 4-hydroxy-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.53 mmol, 0.20 g | OC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1 | C21H16N2O3S
reactant | chloroethanol | 0.80 mmol, 0.064 g | ClC(C)O | C2H5ClO
reactant | potassium carbonate | 1.86 mmol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(2-Hydroxyethoxy)-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.17 g, 76% | OCCOC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1 | C23H20N2O4S
